US08067445B2
Step 7: [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(4-chloro-benzoylamino)-6-methoxy-biphenyl-3-yl]acetic acid ethyl ester
{4′-Amino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester (0.08 g, 0.2 mmol), 4-chlorobenzoyl chloride (0.04 mL, 0.3 mmol), and triethylamine were reacted in CH2Cl2 to give the title compound.

reactant | {4′-Amino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | 0.2 mmol, 0.08 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)N)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H32N2O5
reactant | 4-chlorobenzoyl chloride | 0.3 mmol, 0.04 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(4-chloro-benzoylamino)-6-methoxy-biphenyl-3-yl]acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C35H35ClN2O6
